US07141571B2
D. Preparation of trans-4-[4-(3-Chloro-4-fluoro-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl]-cyclohexanol
A mixture of [4-(3-chloro-4-fluoro-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-[4-(1-methyl-1-trimethylsilanyl-ethoxy)-cyclohexyl]-methanol (448 mg, 0.887 mmole) triethylsilane (1.03 g, 8.87 mmole) in TFA (8 mL) under N2 in a pressure flask was heated at 75° C. overnight. The solvents were removed and the residue was dissolved in CH3OH (10 ml) and solid Na2CO3 (2.0 g) was added. After stirring vigorously for 1 h, the solvent was removed and the residue was partitioned between DCM (200 ml) and H2O (50 ml). The organic phase was separated, dried over Na2SO4, and the solvent was removed. Purification via radial chromatography (2 mm silica gel plate, gradient elution with 0 to 4% NH3 in MeOH (2N) in DCM) afforded the title compound (209 mg, 63%) as a solid: MS: 375 (M+H)+; HPLC Ret Time: 1.49 min (Xterra 3.0×50 mm S7 column, 2 min gradient, 5 mL/min).

reactant | [4-(3-chloro-4-fluoro-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-[4-(1-methyl-1-trimethylsilanyl-ethoxy)-cyclohexyl]-methanol | 0.887 mmole, 448 mg | ClC=1C=C(C=CC1F)NC1=NC=NN2C1=C(C=C2)C(O)C2CCC(CC2)OC(C)([Si](C)(C)C)C | C25H34ClFN4O2Si
solvent | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | trans-4-[4-(3-Chloro-4-fluoro-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl]-cyclohexanol | 209 mg, 63% | ClC=1C=C(C=CC1F)NC1=NC=NN2C1=C(C=C2)C[C@@H]2CC[C@H](CC2)O | C19H20ClFN4O
